US07192950B2
A mixture of 2-(3,4-dimethoxy-phenyl)-N-[3-(3,4-dimethoxy-phenyl)-propyl]-N-(1-(S)-phenyl-ethyl)-acetamide (7.0 g, 14.65 mmol) and phosphorus oxide chloride (13.4 ml, 146.5 mmol) in anhydrous acetonitrile, (160 ml) was heated at reflux for 6.5 h, under nitrogen. After cooling to RT, the volatiles were removed under vacuum and the resulting oil was dissolved in anhydrous methanol before evaporation to dryness (repeated twice). The resulting brown oil was dissolved again in anhydrous methanol (122 ml) and cooled at −78° C., under nitrogen. Then, sodium borohydride (3.02 g, 79.99 mmol) was added portionwise in 5 h to the reaction mixture kept at −78° C. The reaction was quenched by dropwise addition of aqueous 1N HCl (8 ml) and the mixture was allowed to warm to RT before the solvent was removed under vacuum and water (175 ml) was added. After extraction with CH2Cl2 (4×150 ml), the organic layer was dried over anhydrous magnesium sulfate and the solvent was removed under vacuum. The resulting crude oil was purified by flash chromatography (CH2Cl2/CH3OH: 36/1) giving the pure diastereoisomer 1-(S)-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-2-(1-(S)-phenyl-ethyl)-2,3,4,5-tetrahydro-1H-benzo[c]azepine as a yellow oil (1.36 g, 20%).

reactant | 2-(3,4-dimethoxy-phenyl)-N-[3-(3,4-dimethoxy-phenyl)-propyl]-N-(1-(S)-phenyl-ethyl)-acetamide | 14.65 mmol, 7.0 g | COC=1C=C(C=CC1OC)CC(=O)N([C@@H](C)C1=CC=CC=C1)CCCC1=CC(=C(C=C1)OC)OC | C29H35NO5
reactant | phosphorus oxide chloride | 146.5 mmol, 13.4 ml | [Cl-].[P+]=O
reactant | sodium borohydride | 79.99 mmol, 3.02 g | [BH4-].[Na+]
solvent | acetonitrile | 160 ml | C(C)#N | C2H3N
product | 1-(S)-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-2-(1-(S)-phenyl-ethyl)-2,3,4,5-tetrahydro-1H-benzo[c]azepine | 1.36 g, 20% | COC=1C=C(C[C@@H]2N(CCCC3=C2C=C(C(=C3)OC)OC)[C@@H](C)C3=CC=CC=C3)C=CC1OC | C29H35NO4
